US07745641B2
In a similar manner to Step 4 of Example 140, 7-amino-4-(4-hydroxy-3-methoxyphenyl)isoindolinone (202 mg, 0.747 mmol) was dissolved in acetonitrile (10.1 mL), and the solution was treated with potassium iodide (149 mg, 0.896 mmol), copper iodide (171 mg, 0.896 mmol), iodine (228 mg, 0.896 mmol) and tert-butyl nitrite (0.266 mL, 0.896 mmol), followed by purification by preparative thin-layer chromatography (chloroform/methanol=15/1) to obtain 7-iodo-4-(4-hydroxy-3-methoxy-5-nitrophenyl)isoindolinone (100 mg, yield 31%).

reactant | 7-amino-4-(4-hydroxy-3-methoxyphenyl)isoindolinone | 0.747 mmol, 202 mg | NC=1C=CC(=C2CNC(C12)=O)C1=CC(=C(C=C1)O)OC | C15H14N2O3
reactant | potassium iodide | 0.896 mmol, 149 mg | [I-].[K+]
reactant | iodine | 0.896 mmol, 228 mg | II | I2
reactant | tert-butyl nitrite | 0.896 mmol, 0.266 mL | N(=O)OC(C)(C)C | C4H9NO2
solvent | acetonitrile | 10.1 mL | C(C)#N | C2H3N
catalyst | copper iodide | 0.896 mmol, 171 mg | [Cu](I)I
product | 7-iodo-4-(4-hydroxy-3-methoxy-5-nitrophenyl)isoindolinone | 100 mg, yield 31% | IC=1C=CC(=C2CNC(C12)=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)OC | C15H11IN2O5
